US06818655B2
A solution of 2-chloroquinoline-4-carboxylic acid dimethylamide (512 mg, 2.18 mmol), tert-butyl N-(3-aminopropyl)carbamate (571 μl, 3.27 mmol), and triethylamine (608 μl, 4.36 mmol) in absolute ethanol (35 ml) was heated at reflux for 7 days. The reaction was then allowed to cool to ambient temperature and was evaporated under reduced pressure to give a yellow oil. The residue was purified by column chromatography (ethyl acetate), dissolved in methylene chloride (10 mL), and treated with 4 N hydrogen chloride in dioxane (3 mL). The reaction was maintained at ambient temperature for 24 hours. Evaporation under reduced pressure gave 2-(3-aminopropylamino)quinoline-4-carboxylic acid dimethylamide dihydrochloride (218 mg, 30%) as a pale yellow solid. [M+H]+ 273.

reactant | 2-chloroquinoline-4-carboxylic acid dimethylamide | 2.18 mmol, 512 mg | CN(C(=O)C1=CC(=NC2=CC=CC=C12)Cl)C | C12H11ClN2O
reactant | tert-butyl N-(3-aminopropyl)carbamate | 3.27 mmol, 571 μl | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | triethylamine | 4.36 mmol, 608 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-(3-aminopropylamino)quinoline-4-carboxylic acid dimethylamide dihydrochloride | 218 mg, 30% | Cl.Cl.CN(C(=O)C1=CC(=NC2=CC=CC=C12)NCCCN)C | InChI=1S/C15H20N4O.2ClH/c1-19(2)15(20)12-10-14(17-9-5-8-16)18-13-7-4-3-6-11(12)13;;/h3-4,6-7,10H,5,8-9,16H2,1-2H3,(H,17,18);2*1H
